US07893055B2
Ethyl 3-(benzyloxy)-10,10-dimethyl-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate.
Ethyl 3-hydroxy-10,10-dimethyl-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate (790 mg, 2.8 mmol) and benzyl bromide (580 mg, 3.4 mmol) were placed together in 10 mL DMF under N2 and treated with K2CO3 (512 mg, 4 mmol). After warming for 2.5 h at 60-70° C., the DMF was removed under reduced pressure. The residue was dissolved in CH2Cl2 and washed with H2O. The CH2Cl2 solution was dried over MgSO4, filtered and concentrated to give the title compound (940 mg, 90%) as a solid. 1H NMR (300 MHz, CDCl3) δ: 1.27 (t, J=7.3 Hz, 3H), 1.54 (s, 6H), 3.59 (s, 2H), 3.65-3.95 (m, 2H), 4.30 (q, J=7.3 Hz, 2H), 4.40-4.80 (m, 2H), 5.19 (s, 2H), 7.29-7.34 (m, 3H), 7.39-7.49 (m, 2H). LC/MS (M+H): 373.

reactant | Ethyl 3-hydroxy-10,10-dimethyl-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate | 2.8 mmol, 790 mg | OC1=C(N=C2N(CCOCC2(C)C)C1=O)C(=O)OCC | C13H18N2O5
reactant | benzyl bromide | 3.4 mmol, 580 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 4 mmol, 512 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-(benzyloxy)-10,10-dimethyl-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate | 940 mg, 90% | C(C1=CC=CC=C1)OC1=C(N=C2N(CCOCC2(C)C)C1=O)C(=O)OCC | C20H24N2O5
